US08536165B2
2-(6-Bromo-5-methylpyridin-3-ylamino)-5-methylbenzoic acid
Obtained (0.51 g, yield 20%) following the procedure described in Intermediate 13 starting with 6-bromo-5-methylpyridin-3-amine (7.70 mmol, 1.44 g) and 2-chloro-5-methylbenzoic acid (15.36 mmol, 2.62 g).

reactant | 6-bromo-5-methylpyridin-3-amine | 7.70 mmol, 1.44 g | BrC1=C(C=C(C=N1)N)C | C6H7BrN2
reactant | 2-chloro-5-methylbenzoic acid | 15.36 mmol, 2.62 g | ClC1=C(C(=O)O)C=C(C=C1)C | C8H7ClO2
product | 2-(6-Bromo-5-methylpyridin-3-ylamino)-5-methylbenzoic acid | yield 20% | BrC1=C(C=C(C=N1)NC1=C(C(=O)O)C=C(C=C1)C)C | C14H13BrN2O2
